US07745646B2
Sodium hydride (12 mg, 60%, 0.30 mmol) was added to a solution of 4-amino-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one (40 mg, 0.15 mmol), 3,4,5-trichloropyridine (27 mg, 0.15 mmol), and anhydrous DMSO (3 mL) at rt under N2. After 4 h, the reaction was poured into 1M KH2PO4 (40 mL) and extracted with ethyl acetate (40 mL×2). The combined extracts were dried, filtered, concentrated, and purified by silica gel chromatography (13:7→9:11; hexanes:ethyl acetate) to give 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2H-chromen-2-one: 1H NMR (400 MHz, DMSO-d6): δ 9.50 (s, 1H), 8.81 (s, 2H), 7.93 (d, 1H), 7.20 (d, 1H), 4.83 (m, 1H), 4.63 (s, 1H), 3.91 (s, 3H), 1.80-1.00 (m, 8H); MS (ESI): 421.1.

reactant | Sodium hydride | 0.30 mmol, 12 mg | [H-].[Na+]
reactant | 4-amino-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one | 0.15 mmol, 40 mg | NC1=CC(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O | C15H17NO4
reactant | 3,4,5-trichloropyridine | 0.15 mmol, 27 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
reactant | KH2PO4 | 1M, 40 mL | OP(=O)(O)[O-].[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2H-chromen-2-one | C1(CCCC1)OC=1C(=CC=C2C(=CC(OC12)=O)NC1=C(C=NC=C1Cl)Cl)OC | C20H18Cl2N2O4
